US09062092B2
Compound 95d. (S)-1-((S)-2-Amino-propionyl)-hexahydro-pyridazine-3-carboxylic acid
To a stirred solution of (S)-1-((S)-2-amino-propionyl)-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (330 mg, 0.618 mmol) in dichloromethane (10 mL) at 0° C. was added trifluoroacetic acid (3.3 mL) and the reaction mixture stirred for 1 hour and then evaporated. The residue was dissolved in dichloromethane and washed with saturated bicarbonate solution (2×), the aqueous extracts washed with dichloromethane and the combined organic extracts passed through a hydrophobic frit and evaporated to give a yellow foam (232 mg) that was carried through to the next step directly.

reactant | (S)-1-((S)-2-amino-propionyl)-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 0.618 mmol, 330 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)N)=O | C19H24BrN5O2
reactant | trifluoroacetic acid | 3.3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-1-((S)-2-Amino-propionyl)-hexahydro-pyridazine-3-carboxylic acid | 232 mg | N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C | C8H15N3O3
